US06900243B2
a) [3-[2-Chloro-5-(trifluoromethyl)phenoxy]heptyl]methylcarbamic acid, 1,1-dimethylethyl ester
The title compound was prepared according to the method of Example 1 step (c) but using 2-chloro-5-(trifluoromethyl)phenol and (3-hydroxyheptyl)methylcarbamic acid, 1,1-dimethylethyl ester.

reactant | 2-chloro-5-(trifluoromethyl)phenol | ClC1=C(C=C(C=C1)C(F)(F)F)O | C7H4ClF3O
reactant | (3-hydroxyheptyl)methylcarbamic acid, 1,1-dimethylethyl ester | OC(CCN(C(OC(C)(C)C)=O)C)CCCC | C13H27NO3
product | [3-[2-Chloro-5-(trifluoromethyl)phenoxy]heptyl]methylcarbamic acid, 1,1-dimethylethyl ester | ClC1=C(OC(CCN(C(OC(C)(C)C)=O)C)CCCC)C=C(C=C1)C(F)(F)F | C20H29ClF3NO3
